US07638638B2
To a cold solution (−10° C.) of bromoacetyl bromide (2.0 g, 10.0 mmol) in CH2Cl2 (30 mL), a solution of (S)-pyrrolidine-2-carbonitrile (480 mg, 5.0 mmol) and pyridine (1.4 g, 210 mmol) together with a catalytic amount of DMAP (50 mg) in CH2Cl2 (10 mL) was added over a 30 minute period. After stirring for about 10 minutes, the reaction temperature was gradually increased to room temperature. Stirring at room temperature was continued overnight. The residue was diluted with CH2Cl2 (60 mL), washed with ice water and cold 10% sodium bicarbonate aqueous solution to give crude product (1.01 g; yield of 93%). Column chromatography purification of the crude product resulted in pure 1-(2-bromo-acetyl)-(S)-pyrrolidine-2-carbonitrile (892 mg; 82.6% yield).

reactant | bromoacetyl bromide | 10.0 mmol, 2.0 g | BrCC(=O)Br | C2H2Br2O
reactant | (S)-pyrrolidine-2-carbonitrile | 5.0 mmol, 480 mg | N1[C@@H](CCC1)C#N | C5H8N2
reactant | pyridine | 210 mmol, 1.4 g | N1=CC=CC=C1 | C5H5N
solvent | CH2Cl2 | 30 mL | C(Cl)Cl | CH2Cl2
catalyst | DMAP | 50 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 60 mL | C(Cl)Cl | CH2Cl2
product | 1-(2-bromo-acetyl)-(S)-pyrrolidine-2-carbonitrile | 892 mg, 82.6% yield | BrCC(=O)N1[C@@H](CCC1)C#N | C7H9BrN2O
